US08183398B2
Preparation of 6-methyl-4-oxo-4H-pyran-3 yl furan-2-carboxylate:
Allomaltol (1.256 g, 10 mmol) was dissolved in 40 mL of anhydrous THF. The mixture was cooled to 0° C. Triethylamine (1.8 mL, 13 mmol) was added. Furan-2-carbonyl chloride (1.500 g, 11 mmol) was added dropwise. Cold bath was removed and the mixture was stirred at room temperature overnight. The reaction was extracted with EtOAc. The organic phase was washed with brine 2 times then dried over Na2SO4 and concentrated. The crude product was purified with flash chromatography using EtOAc/hexanes to give the desired product as a brown solid (1.539 g, 70%). MP (136° C.). 1H NMR (CDCl3) δ (ppm): 2.30 (s, 3H), 6.29 (s, 1H), 6.55 (m, 1H), 7.37 (m, 1H), 7.64 (m, 1H), 7.94, (s, 1H). 13C NMR (CDCl3) δ (ppm): 19.8, 112.6, 115.4, 120.8, 140.5, 143.0, 147.9, 148.4, 155.4, 166.5, 172.1.

reactant | Allomaltol | 10 mmol, 1.256 g | CC1=CC(=O)C(=CO1)O | C6H6O3
reactant | Triethylamine | 13 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | Furan-2-carbonyl chloride | 11 mmol, 1.500 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 6-methyl-4-oxo-4H-pyran-3 yl furan-2-carboxylate | 1.539 g, 70% | O1C(=CC=C1)C(=O)OC1=COC(=CC1=O)C | C11H8O5
